US07479558B2
57c) 5-Chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one
To the solution of 5-(aminomethyl)-6-chloro-N-(2,6-difluorophenyl)-2-(methylthio)-4-pyrimidinamine (0.317 g) in CH2Cl2 (5 mL) was added the mixture of carbonyl diimidazole (0.178 g) in CH2Cl2 (5 mL). The resultant mixture was stirred for about 3 hours at r.t., mixed with CH2Cl2 (10 mL) and washed with HCl (1 N, 2×10 mL) and H2O (20 mL). The organic layers were collected, dried over Na2SO4, filtered and concentrated to provide the title compound (0.279 g, 81%). LC-MS m/z 343 (M+H)+, 1.75 min (ret. time); 1H-NMR (400 MHz, CDCl3) δ 7.44-7.40 (m, 1H), 7.07-7.03 (m, 2H), 5.84 (br, 1H), 4.62 (s, 2H), 2.19 (s, 3H).

reactant | 5-(aminomethyl)-6-chloro-N-(2,6-difluorophenyl)-2-(methylthio)-4-pyrimidinamine | 0.317 g | NCC=1C(=NC(=NC1Cl)SC)NC1=C(C=CC=C1F)F | C12H11ClF2N4S
reactant | carbonyl diimidazole | 0.178 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.279 g, 81% | ClC1=C2C(=NC(=N1)SC)N(C(NC2)=O)C2=C(C=CC=C2F)F | C13H9ClF2N4OS
